US03932411
A solution of 4.05 g (0.025 mol) 5-hydroxy-1-oxotetraline in 50 ml isopropanol was mixed with 25 ml 1N isopropanolic potassium hydroxide solution and heated under reflux for ten minutes. Thereafter, the crude 1-(4-chlorophenyl)-4-(3-chloro-2-hydroxypropyl)-piperazine prepared above was added thereto after the whole of the reaction mixture had been dissolved by the addition of 20 ml hot isopropanol and the reaction mixture then stirred under reflux for six hours. During this time, a weak current of nitrogen was passed through the apparatus. After cooling and filtering off with suction the precipitated potassium chloride, the filtrate was acidified by stirring with approximately 7N methanolic hydrochloric acid. Upon cooling, colorless crystals separated out which were filtered off and recrystallized from approximately 85% aqueous ethanol. There were obtained 8.92 g (79% of theory) 5-{3-[4-(4-chlorophenyl)-1-piperazinyl]-2-hydroxypropoxy}-3,4-dihydro-2H-naphthalene-1-one; m.p. 204°-205°C.

reactant | 5-hydroxy-1-oxotetraline | 0.025 mol, 4.05 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | potassium hydroxide | 1N, 25 ml | [OH-].[K+]
reactant | 1-(4-chlorophenyl)-4-(3-chloro-2-hydroxypropyl)-piperazine | ClC1=CC=C(C=C1)N1CCN(CC1)CC(CCl)O | C13H18Cl2N2O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 5-{3-[4-(4-chlorophenyl)-1-piperazinyl]-2-hydroxypropoxy}-3,4-dihydro-2H-naphthalene-1-one | 8.92 g, 79% | ClC1=CC=C(C=C1)N1CCN(CC1)CC(COC1=C2CCCC(C2=CC=C1)=O)O | C23H27ClN2O3
